US05037759
Preparation of 2-[4-(5-trifluoromethyl-2-pyridyloxy)-phenoxy]propane
Sodium hydride (3.7 g, 0.154 mole) was added in portions to a stirred mixture of dry N,N-dimethylformamide (60 ml) and 4-isopropyloxyphenol (26 g, 0.17 mole). After hydrogen evolution had stopped, 2-chloro-5-trifluoromethylpyridine (28.75 g, 0.158 mole) was added and stirring was continued for 1.75 hours at 80°-95° C. Further sodium hydride (0.4 g) was added. After stirring for 1.25 hours at 95° C., the mixture was cooled and poured into water. The water was extracted twice with toluene, the extracts washed with 1M sodium hydrogen carbonate and brine, filtered and evaporated to a brown oily residue which was purified over silica gel with 1:9 ether/hexane as eluant to give the title compound (37.34 g).

reactant | Sodium hydride | 0.154 mole, 3.7 g | [H-].[Na+]
reactant | 4-isopropyloxyphenol | 0.17 mole, 26 g | C(C)(C)OC1=CC=C(C=C1)O | C9H12O2
reactant | hydrogen | [H][H] | H2
reactant | 2-chloro-5-trifluoromethylpyridine | 0.158 mole, 28.75 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | sodium hydride | 0.4 g | [H-].[Na+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-[4-(5-trifluoromethyl-2-pyridyloxy)-phenoxy]propane | 37.34 g | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C)C)C=C1)(F)F | C15H14F3NO2
